US06620811B2
N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(4-methyl-3-oxo-piperazin-1-yl)-isonicotinamide
From 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide with cesium carbonate and 1-methyl-piperazin-2-one. ES-MS m/e (%): 505 (M+Na+, 31), 483 (M+H+, 100).

reactant | 2-bromo-N-(4-methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-isonicotinamide | BrC=1C=C(C(=O)NC=2SC3=C(N2)C(=CC=C3N3CCOCC3)OC)C=CN1 | C18H17BrN4O3S
reactant | cesium carbonate | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 1-methyl-piperazin-2-one | CN1C(CNCC1)=O | C5H10N2O
product | N-(4-Methoxy-7-morpholin-4-yl-benzothiazol-2-yl)-2-(4-methyl-3-oxo-piperazin-1-yl)-isonicotinamide | COC1=CC=C(C2=C1N=C(S2)NC(C2=CC(=NC=C2)N2CC(N(CC2)C)=O)=O)N2CCOCC2 | C23H26N6O4S
